US07605171B2
Step A: Methyl 3-bromo-4-hydroxybenzoate
A solution of 3.9 g (18.0 mmol) of 3-bromo-4-hydroxybenzoic acid in 20 mL of 3:1 v/v CH2Cl2/CH3OH was treated with 10.8 mL of 2.0 M (trimethylsilyl)diazomethane solution in hexanes. The mixture was stirred at rt for 2 h, then concentrated to give 4.6 g of the title compound: 1H NMR (500 MHz, CDCl3) δ 3.90 (s, 3H), 5.93 (bs, 1H), 7.05 (d, J=8.5, 1H), 7.92 (dd, J=2.1, 8.5, 1M), 8.19 (d, J=2.0, 1H).

reactant | 3-bromo-4-hydroxybenzoic acid | 18.0 mmol, 3.9 g | BrC=1C=C(C(=O)O)C=CC1O | C7H5BrO3
reactant | (trimethylsilyl)diazomethane | 2.0 M, 10.8 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | CH2Cl2 CH3OH | C(Cl)Cl.CO
product | Methyl 3-bromo-4-hydroxybenzoate | 4.6 g | BrC=1C=C(C(=O)OC)C=CC1O | C8H7BrO3
